US07989444B2
2-Methyl-7-(3-{[4-methyl-5-(tetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.25 mmol) and 3-[(3-chloropropyl)thio]-4-methyl-5-(tetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazole and was obtained as a faint yellow slightly hygroscopic solid (0.025 mmol).

reactant | 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.25 mmol | CC=1OC2=CC3=C(CCNCC3)C=C2N1 | C12H14N2O
reactant | 3-[(3-chloropropyl)thio]-4-methyl-5-(tetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazole | ClCCCSC1=NN=C(N1C)C1CCOCC1 | C11H18ClN3OS
product | 2-Methyl-7-(3-{[4-methyl-5-(tetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC=1OC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3CCOCC3)C=C2N1 | InChI=1S/C23H31N5O2S.ClH/c1-16-24-20-14-18-4-9-28(10-5-19(18)15-21(20)30-16)8-3-13-31-23-26-25-22(27(23)2)17-6-11-29-12-7-17;/h14-15,17H,3-13H2,1-2H3;1H
